US05200550
To a solution of 1.17 g (3 mmoles) of 4-[3-(1-adamantyl)-4-hydroxybenzoyloxy] benzoic acid in 100 ml of a 50:50 mixture of THF and DMF, there are added, by small portions, 180 mg (6 mmoles) of sodium hydride (80% in oil). The mixture is stirred at ambient temperature until the cessation of gaseous emission. There are then added 260 μl (3 mmoles) of allyl bromide and the mixture is stirred at ambient temperature for 3 hours. The reaction medium is poured into water, acidified to pH 4 with 1N HCl and extracted with ethyl ether. The organic phase, is decanted, washed with water, dried on magnesium sulfate and evaporated. The resulting residue is purified by chromatography on silica eluted with ethyl ether. After evaporation of the solvent, 880 mg (68% yield) of 4-[3-(1-adamantyl)-4-allyloxybenzoyloxy] benzoic acid having a melting point of 260°-261° C. are recovered.

reactant | 4-[3-(1-adamantyl)-4-hydroxybenzoyloxy] benzoic acid | 3 mmoles, 1.17 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC3=CC=C(C(=O)O)C=C3)C=CC2O | C24H24O5
reactant | sodium hydride | 6 mmoles, 180 mg | [H-].[Na+]
reactant | allyl bromide | 3 mmoles, 260 μl | C(C=C)Br | C3H5Br
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-[3-(1-adamantyl)-4-allyloxybenzoyloxy] benzoic acid | 880 mg, 68% yield | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)OC3=CC=C(C(=O)O)C=C3)C=CC2OCC=C | C27H28O5
